US08802686B2
4-Cyclopropanesulphonylphenylamine
A solution of 1.60 g (7.0 mmol) of 1-cyclopropanesulphonyl-4-nitrobenzene in 50 ml of ethanol and 50 ml of THF was admixed with 3.2 g of Raney nickel (50% moisture) and hydrogenated for 1.5 hours under atmospheric pressure at 0° C. The mixture was filtered and concentrated by evaporation. This gave 1.28 g (6.5 mmol; yield: 92%) of the product.

reactant | 1-cyclopropanesulphonyl-4-nitrobenzene | 7.0 mmol, 1.60 g | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO4S
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Raney nickel | 3.2 g | [Ni] | Ni
product | 4-Cyclopropanesulphonylphenylamine | yield: 92% | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)N | C9H11NO2S
